US08097628B2
To a solution of methyl 5-bromo-6-(trifluoromethyl)-3-pyridinecarboxylate (1173 mg, 4.13 mmol) in 1,4-dioxane (25 ml) stirred under N2 was added K2CO3 (1712 mg, 12.39 mmol), trimethylboroxine (0.866 ml, 6.19 mmol) and tetrakis(triphenylphosphine)palladium (0) (239 mg, 0.206 mmol). The reaction mixture was stirred heating under reflux for 24 h. HPLC showed starting material remaining, more tetrakis(triphenylphosphine)palladium (0) was added until starting material was not detected by HPLC. The reaction mixture was diluted with water and extracted with EtOAc. The combined organic phases were washed with sat. NaCl, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. Purification by flash chromatography using a 40 g Merck silica gel cartridge, and mixtures of hexane and EtOAc as eluent afforded methyl 5-methyl-6-(trifluoromethyl)-3-pyridinecarboxylate (304 mg, 32%).

reactant | methyl 5-bromo-6-(trifluoromethyl)-3-pyridinecarboxylate | 4.13 mmol, 1173 mg | BrC=1C=C(C=NC1C(F)(F)F)C(=O)OC | C8H5BrF3NO2
reactant | K2CO3 | 12.39 mmol, 1712 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trimethylboroxine | 6.19 mmol, 0.866 ml | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | 1,4-dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.206 mmol, 239 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 5-methyl-6-(trifluoromethyl)-3-pyridinecarboxylate | 304 mg, 32% | CC=1C=C(C=NC1C(F)(F)F)C(=O)OC | C9H8F3NO2
